US05403851
A solution of 1,1'-carbonyldiimidazole (2.03 g, 12.5 mmol), p-trifluoromethylbenzyl alcohol (2.2 g, 12.5 mmol) and THF (100 mL) was stirred for 2 hours. The reaction was monitored by TLC (silica gel, hexane:ethylacetate; 2:1) to examine the complete disappearence of p-trifluoromethylbenzyl alcohol. To this solution, 2.0 g (12.5 mmol) of tryptamine was added and the mixture was stirred overnight. The reaction contents were diluted with methylene chloride (100 mL). The organic layer was washed with 5% 3×100 mL of HCl, water (3×100 mL) and dried over anhydrous MgSO4. Upon evaporation of the solvent, under vacuum, crude N-(para-Trifluoromethylbenzyloxycarbonyl)tryptamine was obtained as a solid which was crystallized from etherhexane mixture (2.6 g, 57% yield). mp 92°-94° C.

reactant | 1,1'-carbonyldiimidazole | 12.5 mmol, 2.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | p-trifluoromethylbenzyl alcohol | 12.5 mmol, 2.2 g | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | tryptamine | 12.5 mmol, 2.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-(para-Trifluoromethylbenzyloxycarbonyl)tryptamine | FC(C1=CC=C(COC(=O)NCCC2=CNC3=CC=CC=C23)C=C1)(F)F | C19H17F3N2O2
